US07196111B2
To an ice cold solution of 1.36 g (9.32 mmol) tetrahydro-thiopyran-4-carboxylic acid in 25 mL of dichloromethane (DCAM) was added dropwise 1.1 mL (12.6 mmol) of oxalyl chloride, and the resulting mixture was stirred at 0° C. for 2 h. Then 2 μL of dimethylformamide (DMF cat) was added, and the reaction mixture was stirred at rt for 2 h, and concentrated to give 1.43 g (93%) of desired tetrahydro-thiopyran-4-carbonyl chloride as a brown oil as indicated by 1H NMR. The product was used with out any further purification in the next step toward the preparation of 6-(4-Benzyloxy-phenyl)-7-(tetrahydro-thiopyran-4-yl)-3-(1H-tetrazol-5-yl)-pyrazolo[1,5-a]pyrimidine (below, entry 375).

reactant | tetrahydro-thiopyran-4-carboxylic acid | 9.32 mmol, 1.36 g | S1CCC(CC1)C(=O)O | C6H10O2S
reactant | oxalyl chloride | 12.6 mmol, 1.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 2 μL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | tetrahydro-thiopyran-4-carbonyl chloride | 1.43 g, 93% | S1CCC(CC1)C(=O)Cl | C6H9ClOS
